US06177440B1
A solution of the 9-[(2-benzylphenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (166 mg, 0.39 mM) in 8 mL THF and 30 mL concentrated aqueous ammonium hydroxide was sonicated for 30 hours at 40-50° C. The mixture was diluted with ethyl acetate and acidified to pH 1 with 5 N HCl. The aqueous layer was extracted twice with ethyl acetate. The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 70 mg (44%) of the 9-[(2-benzylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole as a white solid. 1H NMR (CDCl3) δ 8.0 (d, 1H, J=8 Hz), 7.4-7.0 (m, 12H), 6.8 (d, 1H, J=8 Hz), 6.6 (d, 1H, J=8 Hz), 6.5 (m, 1H), 6.4 (m, 1H), 5.8 (s, 1H), 5.4 (s, 2H), and 4.2 (s, 2H). MS (ES) m/e 405, 407.

reactant | 9-[(2-benzylphenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.39 mM, 166 mg | C(C1=CC=CC=C1)C1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C28H23NO3
reactant | HCl | 5 N | Cl | ClH
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-benzylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 70 mg, 44% | C(C1=CC=CC=C1)C1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C27H22N2O2
